US05114949
Powdered zinc (2.97 g) is added at a temperature in the region of 20° C. to a stirred solution of (RS)-3-hydroxy-2-{2-[4-((5-fluoro-3-indolyl)methyl)piperidino]ethyl}isoindolinone (3.4 g) in acetic acid (21 cc). The mixture is heated to boiling for 9 hours and then cooled to a temperature in the vicinity of 20° C. After the addition of distilled water (30 cc), the solution is alkalinized to pH 7-8 with sodium bicarbonate. The organic phase is extracted with dichloromethane (4×30 cc), washed with distilled water (30 cc), dried over anhydrous magnesium sulphate, treated with vegetable charcoal, filtered and concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue obtained is purified by flash chromatography on a silica column under a stream of argon at moderate pressure (0.5-1.5 bar) with ethyl acetate and then a mixture of ethyl acetate and methanol (98:2 by volume) as eluents. After recrystallization in ethyl acetate (40 cc), 2-{2-[4-((5-fluoro-3-indolyl)methyl)piperidino]ethyl}isoindolinone (0.54 g), m.p. 175° C., is obtained.

reactant | (RS)-3-hydroxy-2-{2-[4-((5-fluoro-3-indolyl)methyl)piperidino]ethyl}isoindolinone | 3.4 g | OC1N(C(C2=CC=CC=C12)=O)CCN1CCC(CC1)CC1=CNC2=CC=C(C=C12)F | C24H26FN3O2
reactant | water | 30 cc | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 21 cc | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.97 g | [Zn] | Zn
product | 2-{2-[4-((5-fluoro-3-indolyl)methyl)piperidino]ethyl}isoindolinone | 0.54 g | FC=1C=C2C(=CNC2=CC1)CC1CCN(CC1)CCN1C(C2=CC=CC=C2C1)=O | C24H26FN3O
